US04857513
To a solution of tetraethyl [(2-benzo[b]thiophenecarboxamido)methylene]bis(phosphonate) (463 mg) in methylene chloride (2 ml) was added iodotrimethylsilane (1 ml) in one portion at 5° C. The mixture was stirred for one hour at 5° C., allowed to stand for 2 days in a refrigerator and then additionally stirred for one hour at ambient temperature. The mixture was extracted with water. The aqueous layer was washed with methylene chloride and diethyl ether and then evaporated under reduced pressure. The residue was dissolved in water and therein tert-butylamine (183 mg) was added. The mixture was lyophilized to give bis(tert-butylamine)salt of [(2-benzo[b]thiophenecarboxamido)methylene]bis(phosphonic acid) (277 mg) as a white powder.

reactant | tetraethyl [(2-benzo[b]thiophenecarboxamido)methylene]bis(phosphonate) | 463 mg | S1C2=C(C=C1C(=O)NC(P(OCC)(OCC)=O)P(OCC)(OCC)=O)C=CC=C2 | C18H27NO7P2S
reactant | iodotrimethylsilane | 1 ml | I[Si](C)(C)C | C3H9ISi
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | [(2-benzo[b]thiophenecarboxamido)methylene]bis(phosphonic acid) | 277 mg | S1C2=C(C=C1C(=O)NC(P(O)(O)=O)P(O)(O)=O)C=CC=C2 | C10H11NO7P2S
